US04859562
170 g (1.1 mol) of crotylmethylphosphinic acid chloride were dissolved in 300 ml of acetonitrile and heated with 73 g (1.1 mol) of sodium cyanate to 55° C. while stirring. After 4.5 hours, the precipitate was filtered off by suction and washed with acetonitrile, the filtrate was concentrated, and the residue distilled at a temperature of 76°-78° C. and at a pressure of 27 Pa. 123 g of crotylmethylphosphinic acid isocyanate (70% of theory) were obtained.

reactant | crotylmethylphosphinic acid chloride | 1.1 mol, 170 g | C(C=CC)CP(=O)Cl | C5H10ClOP
reactant | sodium cyanate | 1.1 mol, 73 g | [O-]C#N.[Na+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | crotylmethylphosphinic acid isocyanate | 123 g, 70% | C(C=CC)CP(=O)N=C=O | C6H10NO2P
